US07105516B2
A solution of 3-formyl-1-(toluene-4-sulfonyl)-1H-indole-5-carbonitrile (6.0 g, 18.5 mMol) and 4-(1−cyclopentenyl)pyrrolidine (3.05 g, 22.2 mMol) in benzene (200 mL) containing p-toluenesufonic acid (100 mg) were heated to reflux with azeotropic removal of water for 2 h. The solution was cooled and concentrated to dryness. The residue was then dissolved in THF (100 mL) and methanol (50 mL) and 6 N HCl (100 mL) was added dropwise with stirring over 15 min. The solution was stirred for 48 h and concentrated in vacuo. The residue was dissolved in chloroform/methanol (9:1), extracted with brine (3×250 mL), and dried over Na2SO4. The solution was concentrated and the residue was purified by silica gel column chromatography (20% ethyl acetate/hexanes-90% ethyl acetate/hexanes) to give 3-(2-oxo-cyclopent-ylidenemethyl)-1-(toluene-4-sulfonyl)-1H-indole-5-carbonitrile (3.0 g, 42%). 1H NMR (400 MHz, CDCl3) δ 8.07 (2H, d, J=6.4 Hz), 7.85 (1H, s), 7.80 (2H, d, J=6.8 Hz), 7.61 (1H, dd, J=8.8 Hz, 1.2 Hz), 7.46 (1H, t, J=2.8 Hz), 7.29 (2H, d, J=8.0 Hz), 2.91 (2H, m), 2.47 (2H, m), 2.37 (3H, s), 2.12 (2H, m); MS m/e 391 (M+H)+.

reactant | 3-formyl-1-(toluene-4-sulfonyl)-1H-indole-5-carbonitrile | 18.5 mMol, 6.0 g | C(=O)C1=CN(C2=CC=C(C=C12)C#N)S(=O)(=O)C1=CC=C(C=C1)C | C17H12N2O3S
reactant | 4-(1−cyclopentenyl)pyrrolidine | 22.2 mMol, 3.05 g | C1(=CCCC1)C1CCNC1 | C9H15N
reactant | water | O | H2O
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesufonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-(2-oxo-cyclopent-ylidenemethyl)-1-(toluene-4-sulfonyl)-1H-indole-5-carbonitrile | 3.0 g, 42% | O=C1C(CCC1)=CC1=CN(C2=CC=C(C=C12)C#N)S(=O)(=O)C1=CC=C(C=C1)C | C22H18N2O3S
